US07414076B2
Preparation of 3-[4-(4-nitrophenyl)piperazin-1-yl]-1-propanesulfonic acid (Compound N)
To a solution of 1-(4-nitrophenyl)piperazine (2.58 g, 12.1 mmol) in acetone (25 mL) was added 1,3-propane sultone (1.06 g, 8.6 mmol). The mixture was stirred at reflux for 2 h. The reaction was cooled to room temperature. The solid was collected by filtration, washed with acetone (2×25 mL) and dried in vacuo. This allowed the isolation of compound N, 2.85 g (71%).

reactant | 1-(4-nitrophenyl)piperazine | 12.1 mmol, 2.58 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | 1,3-propane sultone | 8.6 mmol, 1.06 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-[4-(4-nitrophenyl)piperazin-1-yl]-1-propanesulfonic acid | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)CCCS(=O)(=O)O | C13H19N3O5S
